US06987115B2
Preparation of [(6-methyl(1,2,3,4-tetrahydrobeta-carbolinyl)methyl]dimethylamine dihydrochloride
To a stirred suspension of 6-methyltryptamine hydrochloride (2.00 g, 9.5 mmole) and dimethylaminoacetaldehyde diethyl acetal (1.53 g, 9.5 mmole) in dry n-butanol (45 mL) at RT was added concentrated hydrochloric acid (1.6 mL, 19.0 mmole). The reaction solution was heated to reflux under an atmosphere of nitrogen. After 6 hr, the reaction solution was cooled to RT without stirring for 12 hr. The precipitate was filtered and then washed sequentially with n-butanol and diethyl ether. Drying under high vacuum afforded the title compound (0.74 g, 25%) as a light yellow solid: MS (ES) m/e 244 (M+H-2HCl)+.

reactant | 6-methyltryptamine hydrochloride | 9.5 mmole, 2.00 g | Cl.CC=1C=C2NC=C(CCN)C2=CC1
reactant | dimethylaminoacetaldehyde diethyl acetal | 9.5 mmole, 1.53 g | C(C)OC(CN(C)C)OCC | C8H19NO2
reactant | hydrochloric acid | 19.0 mmole, 1.6 mL | Cl | ClH
reactant | n-butanol | 45 mL | C(CCC)O | C4H10O
product | (6-methyl(1,2,3,4-tetrahydrobeta-carbolinyl)methyl]dimethylamine dihydrochloride | 0.74 g, 25% | Cl.Cl.CC=1C=C2C=3CCNC(C3NC2=CC1)CN(C)C | InChI=1S/C15H21N3.2ClH/c1-10-4-5-13-12(8-10)11-6-7-16-14(9-18(2)3)15(11)17-13;;/h4-5,8,14,16-17H,6-7,9H2,1-3H3;2*1H
